* C:\Users\Alan\Downloads\etapa_ampli_Sziklai (1).asc
Q1 VccH N003 N007 0 BD135
Q2 VccH N007 N011 0 Qmje15032
Q3 N011 N012 N013 0 BD135
Q4 N011 N013 N014 0 Qmje15032
R1 N007 N011 10
RL Out 0 8
Q5 N022 N021 N018 0 BD136
Q8 N029 N026 N024 0 BD136
V1 VccL 0 15
V2 0 VssL 15
V3 VccH 0 30
V4 0 VssH 30
D3 N002 N003 1N4148
D4 N026 N025 1N4148
R2 N013 Out 10
Q7 N002 N020 N025 0 BC548C
R4 N002 N020 100k
R5 N020 N023 10k
Q10 N025 N028 N031 0 BC548C
R8 N031 N032 80
Q11 N008 N016 N017 0 BC548C
R9 Out N016 22k
R10 0 N019 1k
C1 N016 N019 100µ
R11 N012 N021 100
Q12 N010 InPD N017 0 BC548C
Q13 N017 N028 N030 0 BC548C
R12 N030 N032 470
R13 N028 N027 4.7k
R14 0 InPD 22k
R15 N027 0 4.7k
C2 N027 N032 100µ
C3 InPD N015 1µ
Vs N015 0 SINE(0 1 1k) AC 1
Q14 N010 N008 N004 0 BC558C
Q15 N008 N008 N005 0 BC558C
R16 N001 N009 5k
Q16 N002 N010 N009 0 BC558C
R19 N014 Out 0.47
D7 N025 N021 MyZenner
D5 N012 N002 MyZenner
D1 VccL N011 1N5819
D2 N024 VssL 1N5819
D6 N028 N032 NSCW100
Q6 N018 N022 N024 0 Qmje15032
R3 N022 N024 10
R6 Out N018 0.47
Q9 N024 N029 VssH 0 Qmje15032
R17 N029 VssH 10
R18 N006 N001 22
Q17 N002 N009 N006 0 Qmje15033
Ccomp1 N002 N010 220p
D8 N032 VssH RR2L4S
D9 VccH N001 RR2L4S
C5 0 N001 470µ
C6 N032 0 470µ
C7 0 VssH 100µ
C8 VccH 0 100µ
C9 0 VccL 100µ
C10 VssL 0 100µ
R21 N001 N004 100
R22 N001 N005 100
C11 VccH 0 10n
C12 0 VssH 10n
C13 0 VccL 10n
C14 VssL 0 10n
R7 N023 N025 400
.model D D
.lib C:\Users\Alan\Documents\LTspiceXVII\lib\cmp\standard.dio
.model NPN NPN
.model PNP PNP
.lib C:\Users\Alan\Documents\LTspiceXVII\lib\cmp\standard.bjt
.lib "C:\Users\Alan\Leo\UBA\Circuitos II\Proyecto\standard_bjt.lib"
.tran 0 30m 20m
.model MyZenner D(Ron=0.0001 Roff=100G Vfwd=0.7 Vrev= 3.3)
.backanno
.end
