* C:\Users\Alan\Downloads\etapa_ampli_Sziklai (2).asc
Q1 N003 N006 N010 0 BD135
Q3 N012 N013 Out 0 BD135
RL Out 0 8
Q5 N020 N019 Out 0 BD136
Q8 N027 N024 N022 0 BD136
V1 VccL 0 15
V2 0 VssL 15
V3 VccH 0 30
V4 0 VssH 30
D3 N002 N006 1N4148
D4 N024 N023 1N4148
Q7 N002 N018 N023 0 BC548C
R4 N002 N018 100k
R5 N018 N021 10k
Q10 N023 N026 N029 0 BC548C
R8 N029 N030 80
Q11 N008 N015 N016 0 BC548C
R9 Out N015 22k
R10 0 N017 900
C1 N015 N017 100µ
R11 N013 N019 100
Q12 N011 InPD N016 0 BC548C
Q13 N016 N026 N028 0 BC548C
R12 N028 N030 470
R13 N026 N025 4.7k
R14 0 InPD 22k
R15 N025 0 4.7k
C2 N025 N030 100µ
C3 InPD N014 1µ
Vs N014 0 SINE(0 1 1k) AC 1
Q14 N011 N008 N004 0 BC558C
Q15 N008 N008 N005 0 BC558C
R16 N001 N009 5k
Q16 N002 N011 N009 0 BC558C
D7 N023 N019 MyZenner
D5 N013 N002 MyZenner
D1 VccL N010 1N5819
D2 N022 VssL 1N5819
D6 N026 N030 NSCW100
Q6 Out N020 N022 0 Qmje15032
R3 N020 N022 10
Q9 N022 N027 VssH 0 Qmje15032
R17 N027 VssH 10
R18 N007 N001 22
Q17 N002 N009 N007 0 Qmje15033
Ccomp1 N002 N011 220p
D8 N030 VssH RR2L4S
D9 VccH N001 RR2L4S
C5 0 N001 470µ
C6 N030 0 470µ
C7 0 VssH 100µ
C8 VccH 0 100µ
C9 0 VccL 100µ
C10 VssL 0 100µ
R21 N001 N004 100
R22 N001 N005 100
C11 VccH 0 10n
C12 0 VssH 10n
C13 0 VccL 10n
C14 VssL 0 10n
R7 N021 N023 400
Q2 Out N012 N010 0 Qmje15033
Q4 N010 N003 VccH 0 Qmje15033
R1 VccH N003 10
R2 N010 N012 10
.model D D
.lib C:\Users\Alan\Documents\LTspiceXVII\lib\cmp\standard.dio
.model NPN NPN
.model PNP PNP
.lib C:\Users\Alan\Documents\LTspiceXVII\lib\cmp\standard.bjt
.lib "C:\Users\Alan\Leo\UBA\Circuitos II\Proyecto\standard_bjt.lib"
.tran 0 30m 20m
.model MyZenner D(Ron=0.0001 Roff=100G Vfwd=0.7 Vrev= 3.3)
.backanno
.end
